US04990523
N-[5-(Aminosulfonyl)-1,3,4-thiadiazol-2-yl]-2-hydroxybenzamide.
Acetazolamide (50 g) was stirred and heated at reflux in 500 ml 3N hydrochloric acid for half an hour. The cooled solution was made basic with 50% sodium hydroxide. The precipitated white solid 5-amino-1,3,4-thiadiazole-2-sulfonamide was collected (Compound 1, 28 g). It was dried further at 70° C. in a vacuum oven overnight. To a mixture of Compound 1 (4.5 g, 0.025 mole) and pyridine (2.42 ml, 0.03 mole) in 70 ml acetonitrile was added acetylsalicyloyl chloride (98%, 5 g, 0.025 mole). The reaction mixture warmed and became a clear solution. Solid deposits occurred slowly after stirring at room temperature for 1/2 hour. After two hours the solvent was evaporated; the residue was triturated with isopropyl alcohol/water for two hours and then filtered, rinsed in succession with isopropyl alcohol/water, isopropyl alcohol/isopropyl ether, 2×isopropyl ether. From the combined mother liquor and rinsings, a second crop was collected. Both the first and second crops were combined and dissolved in 50 ml N-methyl-2-pyrrolidone. The solution was filtered and the filtrate was treated with 15 ml 3N hydrochloric acid at 70° C. for half an hour. Upon dilution with 200 ml water, a white solid precipitated. The solid was collected, rinsed with water, and dried in a vacuum over at 80° C. overnight to 4.4 g of title compound, mp>250° C.

reactant | Acetazolamide | 50 g | CC(=O)NC1=NN=C(S1)S(=O)(=O)N | C4H6N4O3S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | pyridine | 0.03 mole, 2.42 ml | N1=CC=CC=C1 | C5H5N
reactant | acetylsalicyloyl chloride | 0.025 mole, 5 g | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
solvent | hydrochloric acid | 3N, 500 ml | Cl | ClH
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | N-[5-(Aminosulfonyl)-1,3,4-thiadiazol-2-yl]-2-hydroxybenzamide | NS(=O)(=O)C1=NN=C(S1)NC(C1=C(C=CC=C1)O)=O | C9H8N4O4S2
